US06894061B2
5-[(2,4-Dimethoxyphenyl)sulfonyl]-3,8-difluoro-6-methyl-5,6-dihydrophenanthridine
A stirred suspension of 2,4-dimethoxy-N-[1-(2′,4,4′-trifluoro-1,1′-biphenyl-2-yl)ethyl]benzenesulfonamide (0.86 g, 1.91 mmol) and potassium carbonate (0.53 g, 3.82 mmol) in N,N-dimethylformamide (5 mL) was heated for twelve hours at 100° C. The reaction mixture was cooled and poured into distilled water. After stirring overnight at room temperature, a precipitate was filtered and dried under high vacuum. The title compound (0.75 g, 1.74 mmol, 91%) was obtained as a colorless, fine, crystalline powder, m.p. 112-115° C.;

reactant | 2,4-dimethoxy-N-[1-(2′,4,4′-trifluoro-1,1′-biphenyl-2-yl)ethyl]benzenesulfonamide | 1.91 mmol, 0.86 g | COC1=C(C=CC(=C1)OC)S(=O)(=O)NC(C)C1=C(C=CC(=C1)F)C1=C(C=C(C=C1)F)F | C22H20F3NO4S
reactant | potassium carbonate | 3.82 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-[(2,4-Dimethoxyphenyl)sulfonyl]-3,8-difluoro-6-methyl-5,6-dihydrophenanthridine | 1.74 mmol, 0.75 g, 91% | COC1=C(C=CC(=C1)OC)S(=O)(=O)N1C=2C=C(C=CC2C2=CC=C(C=C2C1C)F)F | C22H19F2NO4S
